US07618978B2
(2S,3 S)-2-Dibenzylamino-4-nitro-1-phenyl-oct-7-en-3-ol
Cool to −10° C. a well stirred mixture of O-allyl-N-(9-anthracenylmethyl)-cinchonidinium bromide (0.480 g, 0.8 mmol), potassium fluoride (3 gr, 51 mmol), THF (150 mL) and 5-nitropent-1-ene (2.34 g, 20 mmol) and treat with a solution of (S)-2-dibenzylamino-3-phenylpropionaldehyde (2.640 gr, 8 mmol). Allow mixture to warn to room temperature and stir for two days. Concentrate under reduced pressure. Purify on silica gel with hexane/ethyl ether mixtures to give a mixture of two products (2.7 g, 75%).

reactant | O-allyl-N-(9-anthracenylmethyl)-cinchonidinium bromide | 0.8 mmol, 0.480 g | C=CCOC(C1CC2CC[N+]1(CC2C=C)CC3=C4C=CC=CC4=CC5=CC=CC=C53)C6=CC=NC7=CC=CC=C67.[Br-]
reactant | potassium fluoride | 51 mmol, 3 gr | [F-].[K+]
reactant | 5-nitropent-1-ene | 20 mmol, 2.34 g | [N+](=O)([O-])CCCC=C | C5H9NO2
reactant | (S)-2-dibenzylamino-3-phenylpropionaldehyde | 8 mmol, 2.640 gr | C(C1=CC=CC=C1)N([C@H](C=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C23H23NO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (2S,3 S)-2-Dibenzylamino-4-nitro-1-phenyl-oct-7-en-3-ol | C(C1=CC=CC=C1)N([C@@H](CC1=CC=CC=C1)[C@@H](C(CCC=C)[N+](=O)[O-])O)CC1=CC=CC=C1 | C28H32N2O3
